US07790714B2
(S)-2-{[(3R,7S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-6-((S)-1-phenyl-propyl)-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl]-amino}-3-(4′-methoxy-biphenyl-4-yl)-propionic acid
(S)-2-{[(3R,7S)-3-(4-Hydroxy-phenyl)-1-methyl-2-oxo-6-((S)-1-phenyl-propyl)-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl]-amino}-3-(4′-methoxy-biphenyl-4-yl)-propionic acid methyl ester was converted to (S)-2-{[(3R,7S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-6-((S)-1-phenyl-propyl)-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl]-amino}-3-(4′-methoxy-biphenyl-4-yl)-propionic acid methyl ester (64 mg) using general procedure K. This ester upon hydrolysis furnished title compound (58 mg) LCMS (m/z): 884.

reactant | (S)-2-{[(3R,7S)-3-(4-Hydroxy-phenyl)-1-methyl-2-oxo-6-((S)-1-phenyl-propyl)-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl]-amino}-3-(4′-methoxy-biphenyl-4-yl)-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)OC)NC(=O)[C@H]1N(CC=2C=C3O[C@@H](C(N(C3=CC2C1)C)=O)C1=CC=C(C=C1)O)[C@@H](CC)C1=CC=CC=C1)=O | C45H45N3O7
reactant | (S)-2-{[(3R,7S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-6-((S)-1-phenyl-propyl)-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl]-amino}-3-(4′-methoxy-biphenyl-4-yl)-propionic acid methyl ester | 64 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)OC)NC(=O)[C@H]1N(CC=2C=C3O[C@@H](C(N(C3=CC2C1)C)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)[C@@H](CC)C1=CC=CC=C1)=O | C52H49Cl2N3O7
product | (S)-2-{[(3R,7S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-1-methyl-2-oxo-6-((S)-1-phenyl-propyl)-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl]-amino}-3-(4′-methoxy-biphenyl-4-yl)-propionic acid | 58 mg | ClC=1C=C(COC2=CC=C(C=C2)[C@@H]2C(N(C3=CC=4C[C@H](N(CC4C=C3O2)[C@@H](CC)C2=CC=CC=C2)C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)C2=CC=C(C=C2)OC)C)=O)C=CC1Cl | C51H47Cl2N3O7
